US08426587B2
To a stirred solution of triethyl 2-fluoro-2-phosphonoacetate (0.61 mL, 3 mmol) in dry THF (40 mL) at −10° C. under nitrogen was added n-butyllithium (2.5 M solution in hexanes; 1.16 mL, 2.9 mmol) dropwise. The contents of the vessel were allowed to stir for 5 mins at −10° C. before addition of N-Boc-aminoacetaldehyde (0.378 g, 2.5 mmol, in 5 mL THF). The reaction mixture was then allowed to warm to room temperature and stirred for 16 hours. Water (50 mL) was added to the mixture and the organic layer extracted with diethyl ether (50 mL) and washed with brine (20 mL), dried over MgSO4, filtered and the solvent removed under reduced pressure to afford the crude product as a clear oil (0.850 g). Purification by flash chromatography (silica, ˜4 g) eluting in 5-15% EtOAc in n-hexane afforded (E)-ethyl 4-(tert-butoxycarbonylamino)-2-fluorobut-2-enoate (0.525 g, 85%) as a clear oil and a mixture of 10:1 E:Z; E(major)-isomer 1H-NMR (200 MHz, CDCl3): δppm: 1.36 (3H, t, J 7.0 Hz), 1.45 (9H, s), 4.17 (2H, m), 4.32 (2H, q, J 7.0 Hz), 4.88 (1H, br s), 6.01 (1H, dt, J 19.5, 7.2).

reactant | triethyl 2-fluoro-2-phosphonoacetate | 3 mmol, 0.61 mL | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyllithium | 2.9 mmol, 2.5 M, 1.16 mL | C(CCC)[Li]
reactant | N-Boc-aminoacetaldehyde | 2.5 mmol, 5 mL, 0.378 g | C(=O)(OC(C)(C)C)NCC=O | C7H13NO3
reactant | Water | 50 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (E)-ethyl 4-(tert-butoxycarbonylamino)-2-fluorobut-2-enoate | 0.525 g, 85% | C(C)(C)(C)OC(=O)NC/C=C(\C(=O)OCC)/F | C11H18FNO4
